US05849755
a) 3-(5-Chloro-2-methoxybenzamido)-7-methyl-4-chromanone
17.5 g (85 mmol) of 5-chloro-2-methoxybenzoyl chloride were added to a solution of 18.2 g (85 mmol) of 3-amino-7-methyl-4-chromanone hydrochloride (Hebd. Seances Acad. Sci. Ser. C. 279, 281-284) in 90 ml of pyridine at room temperature. After the mixture had been stirred for 2 hours (TLC control: silica gel plate using petroleum ether/ethyl acetate/toluene 2:2:1), it was introduced into ice/water. The precipitate was filtered off with suction, washed several times with water and dried. The 3-(5-chloro-2-methoxybenzamido)-7-methyl-4-chromanone had a melting point of 177°-178° C.

reactant | 5-chloro-2-methoxybenzoyl chloride | 85 mmol, 17.5 g | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
reactant | 3-amino-7-methyl-4-chromanone hydrochloride | 85 mmol, 18.2 g | Cl.NC1COC2=CC(=CC=C2C1=O)C
solvent | pyridine | 90 ml | N1=CC=CC=C1 | C5H5N
product | 3-(5-Chloro-2-methoxybenzamido)-7-methyl-4-chromanone | ClC=1C=CC(=C(C(=O)NC2COC3=CC(=CC=C3C2=O)C)C1)OC | C18H16ClNO4
